US04276420
Preparation of 1-methyl-2-methoxymethyl-4-(4-chlorophenyl)-1,2,4-triazolidin-3-one-5-thione
To 1-methyl-4-(4-chlorophenyl)-1,2,4-triazolidin-3-one-5-thione (5 g) in 200 ml dry DMF was added 0.91 g sodium hydride. After stirring for 30 minutes, bromomethyl methyl ether (2.63 g) was added dropwise, then heated to reflux for 30 minutes, and stirred overnight at room temperature. The solvent was stripped and the residue was dissolved in methylene chloride, washed with water, and chromatographed on a silica gel column (200 g) by elution with methylene chloride, followed by 2.5% methanol in methylene chloride. Yield: 4.8 g.

reactant | 1-methyl-4-(4-chlorophenyl)-1,2,4-triazolidin-3-one-5-thione | 5 g | CN1NC(N(C1=S)C1=CC=C(C=C1)Cl)=O | C9H8ClN3OS
reactant | sodium hydride | 0.91 g | [H-].[Na+]
reactant | bromomethyl methyl ether | 2.63 g | COCBr | C2H5BrO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-2-methoxymethyl-4-(4-chlorophenyl)-1,2,4-triazolidin-3-one-5-thione | CN1N(C(N(C1=S)C1=CC=C(C=C1)Cl)=O)COC | C11H12ClN3O2S
